US05198449
1-Chloro-4-[(3-chloropropyl)sulfonyl]benzene
To a stirred solution of 58.50 g (0.266 mol) of 1-chloro-4-[(3-chloropropyl)thio]benzene in 125 mL of glacial acetic acid cooled in an ice bath was added 69 g of 30% H2O2 (0.609 mol). The mixture was stirred for 0.5 hr at ice bath temperature and then stirred at ambient temperature for 24 hr. The mixture was then heated at 80° C. for 20 hr. The reaction mixture was generated by addition of water (300 mL) and chloroform (300 mL). The mixture was stirred for 10 minutes and the phases separated. The organic layer was washed with an aqueous solution of sodium sulfite and then with aqueous 1M NaOH solution. The organic solution was dried (MgSO4) and concentrated to give a white solid. The solid was recrystallized from chloroform-ether at freezer temperature to obtain 57.74 g (86%), mp 72.5-73.5. The filtrate was concentrated to an oil which was triturated with ether and chilled in a freezer to obtain a second crop of 4.53 g (6.8%), mp 69°-72° C. The total yield was 62.27 g (92.8%).

reactant | 1-chloro-4-[(3-chloropropyl)thio]benzene | 0.266 mol, 58.50 g | ClC1=CC=C(C=C1)SCCCCl | C9H10Cl2S
reactant | H2O2 | 0.609 mol, 69 g | OO | H2O2
reactant | water | 300 mL | O | H2O
reactant | chloroform | 300 mL | C(Cl)(Cl)Cl | CHCl3
reactant | acetic acid | 125 mL | C(C)(=O)O | C2H4O2
product | 1-Chloro-4-[(3-chloropropyl)sulfonyl]benzene | ClC1=CC=C(C=C1)S(=O)(=O)CCCCl | C9H10Cl2O2S
